US07282501B2
Step D: [5-Methyl-2-(6-phenyl-pyridin-3-yl)-thiazol-4-yl]-ethanol
A solution of [5-methyl-2-(6-phenyl-pyridin-3-yl)-thiazol-4-yl]-acetic acid methyl ester (6.0 g, 18.5 mmol) in THF (500 mL) was added dropwise to a suspension of LAH (0.90 g, 22.2 mmol) in THF (300 mL) at −78° C. After the addition was completed, the reaction mixture was allowed to warm to ambient temperature, cooled to −20° C., and quenched sequentially with H2O (1.1 mL), 15% NaOH (1.1 mL), and H2O (3.3 mL). The mixture was filtered through Celite, and the filtrated was concentrated to give the title compound as an oil that was used directly in the next step.

reactant | [5-methyl-2-(6-phenyl-pyridin-3-yl)-thiazol-4-yl]-acetic acid methyl ester | 18.5 mmol, 6.0 g | COC(CC=1N=C(SC1C)C=1C=NC(=CC1)C1=CC=CC=C1)=O | C18H16N2O2S
reactant | LAH | 22.2 mmol, 0.90 g | [H-].[H-].[H-].[H-].[Li+].[Al+3]
reactant | THF | 500 mL | C1CCOC1 | C4H8O
reactant | THF | 300 mL | C1CCOC1 | C4H8O
product | [5-Methyl-2-(6-phenyl-pyridin-3-yl)-thiazol-4-yl]-ethanol | CC1=C(N=C(S1)C=1C=NC(=CC1)C1=CC=CC=C1)C(C)O | C17H16N2OS
